US06518423B1
N1,N1-Dimethyl-N2-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)formamidine
400 mg of 8-(aminomethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine was dissolved in tetrahydrofuran (5 ml)/methanol (5 ml). After adding 250 mg of N,N-dimethylformamide dimethyl acetal, the resulting mixture was heated to 40° C. for 1.5 hours. After distilling off the solvent under reduced pressure, the crystals thus precipitated were taken up by filtration and washed successively with diethyl ether and diisopropyl ether. Thus 400 mg of the title compound was obtained as yellow crystals.

reactant | 8-(aminomethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 400 mg | NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H10N4S
reactant | N,N-dimethylformamide dimethyl acetal | 250 mg | COC(N(C)C)OC | C5H13NO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | N1,N1-Dimethyl-N2-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)formamidine | 400 mg | CN(C=NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1)C | C14H15N5S
